US07183270B2
(±) 1-[(1S*,2R*,4R*)-4-Isopropylamino-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one
To a solution of (±) 1-[(1S*,2R*,4R*)-4-amino-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one (0.36 mmol) in dichloroethane (6 mL) was added acetic acid (0.1 mL, 1.8 mmol), acetone (0.08 mL, 1.1 mmol), and sodium triacetoxyborohydride (0.23 g, 1.1 mmol). The mixture was heated at 80° C. for 1 h, cooled to rt, and quenched with sat. NaHCO3, and extracted twice with EtOAc. The organic extracts were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. A portion of the crude residue was purified by reverse-phase HPLC to provide two fractions, one of which contained the title. MS found: (M+H)+=581.

reactant | (±) 1-[(1S*,2R*,4R*)-4-amino-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one | 0.36 mmol | N[C@H]1C[C@H]([C@H](CC1)N1C(C=C(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)CS(=O)(=O)C1=CC=C(C=C1)SC | C26H29F3N2O3S2
reactant | acetic acid | 1.8 mmol, 0.1 mL | C(C)(=O)O | C2H4O2
reactant | acetone | 1.1 mmol, 0.08 mL | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 1.1 mmol, 0.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 6 mL | ClC(C)Cl | C2H4Cl2
product | (±) 1-[(1S*,2R*,4R*)-4-Isopropylamino-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one | C(C)(C)N[C@H]1C[C@H]([C@H](CC1)N1C(C=C(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)CS(=O)(=O)C1=CC=C(C=C1)SC | C29H35F3N2O3S2
